* Z:\mnt\design.r\spice\examples\1735.asc
R1 N009 0 10K
R2 OUT N012 20K
R3 N012 0 10K
R4 N008 OUT .006
C1 N010 N009 330p
C2 N013 0 43p
C3 N006 0 .001µ
C4 OUT 0 180µ x4 Rser=.1
V1 IN 0 6
L1 N007 N008 1.5µ
M§Q1 IN N005 N007 N007 Si4410DY
M§Q2 N007 N011 0 0 Si4410DY
C5 N001 0 4.7µ
C6 N004 N007 .22µ
D1 N001 N004 1N5818
D2 0 N007 1N5818
XU1 N013 N006 N010 N003 0 N012 OUT N008 N002 0 N011 N001 IN N007 N004 N005 LTC1735
Rload OUT 0 .5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
.lib LTC1735.sub
.backanno
.end
